US06096735
To a solution of 7-chloro-1-(3-methoxy-4-hydroxybenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (0.7 g) in dry dimethylformamide (20 ml) are added potassium carbonate (0.35 g) and 2-chlorobenzyl chloride (0.32 ml), and the mixture is stirred at room temperature overnight. To the reaction solution is added water, and the mixture is extracted with ethyl acetate. The extract is washed with water, dried, and evaporated to remove the solvent. The residue is recrystallized from acetone/diethyl ether to give 7-chloro-1-[3-methoxy-4-(2-chlorobenzyloxy)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.76 g) as white powder.

reactant | 7-chloro-1-(3-methoxy-4-hydroxybenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 0.7 g | ClC=1C=CC2=C(CCCCN2C(C2=CC(=C(C=C2)O)OC)=O)C1 | C18H18ClNO3
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chlorobenzyl chloride | 0.32 ml | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 7-chloro-1-[3-methoxy-4-(2-chlorobenzyloxy)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.76 g | ClC=1C=CC2=C(CCCCN2C(C2=CC(=C(C=C2)OCC2=C(C=CC=C2)Cl)OC)=O)C1 | C25H23Cl2NO3
